US05478840
Ethyl (3-methoxycarbonyl-6,11-dihydrodibenz[b,e]oxepin-11-yl)cyanoacetate (Compound 24-a)
Titanium tetrachloride (2.3 ml) was added to a mixture of 4.95 g of methyl 11-methoxy-6,11-dihydrodibenz[b,e]oxepin-3-carboxylate, 2.8 ml of ethyl cyanoacetate, 4.6 ml of diisopropylethylamine and 400 ml of benzene under ice cooling, and the mixture was stirred at room temperature for 2 days. Methanol (5 ml) was added thereto, and the mixture was diluted with ethyl acetate. The solution was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (3/1)] to give 0.72 g (11%) of the product.

reactant | methyl 11-methoxy-6,11-dihydrodibenz[b,e]oxepin-3-carboxylate | 4.95 g | COC1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)C(=O)OC | C17H16O4
reactant | ethyl cyanoacetate | 2.8 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | diisopropylethylamine | 4.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Titanium tetrachloride | 2.3 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | Methanol | 5 ml | CO | CH4O
product | Ethyl (3-methoxycarbonyl-6,11-dihydrodibenz[b,e]oxepin-11-yl)cyanoacetate | 0.72 g, 11% | COC(=O)C=1C=CC2=C(OCC3=C(C2C(C(=O)OCC)C#N)C=CC=C3)C1 | C21H19NO5
